Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___
 
Chief Complaint:
Unable to speak or move her right side
 
Major Surgical or Invasive Procedure:
tPA given 10:12 on ___ ___ 

 
History of Present Illness:
Ms ___ is an ___ year old woman with a history of hypertension 
who presents to the ED as a transfer from ___ 
after receiving tPA. History is obtained primarily from her 
daughter, ___.

She was apparently in her usual state of health today and was 
eating breakfast around 8am. At approximately 8:40am she went to 
the bathroom; she was apparently able to walk to the bathroom 
without difficulty. As she was in the bathroom for several 
minutes, her husband became worried and called out to her, but 
she did not answer. He knocked on the bathroom door, but again
she did not answer. He forced his way into the bathroom, and 
found her unable to speak or move her right side. EMS was called 
and she was brought promptly to ___.

At ___, exam was notable for right hemianopsia, left gaze 
preference, right facial droop, severe dysarthria, decreased 
sensation on the right hemibody, and only trace movement in the 
right arm and leg. NIHSS was 12. In discussion with neurology, 
she was given tPA with bolus given at 10:12am. CTA head/neck 
showed a thrombus in the left M1. She was therefore transferred
to ___ for consideration of thrombectomy.

While en route to ___, her symptoms were noted to already 
begin resolving, and she was given an NIHSS of 7, though unclear 
for what deficits. 

 
Past Medical History:
Hypertension
Osteoporosis
Chronic low back pain    
 
Social History:
___
Family History:
No family history of stroke
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: T: afebrile BP: 150/88 HR: 77 RR: 20 SaO2: 96% room air
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Awake and alert. Oriented to hospital, her own
age, month and year. At times she did seem to struggle with some
orientation questions, including the city/state and the name of
the hospital, though a few minutes later she would be able to
list these corrently. Able to follow commands both axially and
appendicularly. Language (in ___ is somewhat decreased in
fluency (max ___ words per sentence) though without paraphasias.
She struggles to name some items on the stroke card (key, 
chair).
No evidence of neglect. 
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Very slight right nasolabial fold flattening with slower
activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.
-Motor: Normal bulk and tone throughout. Slight right pronator
drift.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    4    5    4    5    5    5   5    5    5   5    5    5
-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.  
-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.
-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.
-Gait: Not tested.

DISCHARGE EXAM:
===============
General: elderly woman lying in bed, NAD
HEENT: NC/AT
Pulmonary: no increased WOB
Cardiac: warm, well-perfused
Abdomen: soft, ND
Extremities: WWP, no C/C/E bilaterally
Skin: no rashes or lesions noted.  

Neurologic Exam: 
-MS: awake, alert, answers questions in ___ appropriately.
Follows commands reliably. Repetition intact in ___. 
Daughter
reports speech is normal. Mild dysarthria. 
-CN: PERRL, EOMI, no nystagmus. VFF to finger wiggling. Mild R
NLFF. Tongue midline. 
-Motor: Mild right pronator drift. Forceful antigravity in all 4
extremities.
-Sensory: intact to LT b/l
-Reflexes: deferred
-Coordination: FNF intact b/l
-Gait: deferred 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:07PM   %HbA1c-5.2 eAG-103
___ 12:00PM   GLUCOSE-118* UREA N-19 CREAT-0.6 SODIUM-139 
POTASSIUM-3.5 CHLORIDE-98 TOTAL CO2-26 ANION GAP-15
___ 12:00PM   estGFR-Using this
___ 12:00PM   ALT(SGPT)-24 AST(SGOT)-18 ALK PHOS-76 TOT 
BILI-0.6
___ 12:00PM   LIPASE-21
___ 12:00PM   ALBUMIN-3.9 CALCIUM-9.3 PHOSPHATE-4.3 
MAGNESIUM-1.7
___ 12:00PM   WBC-10.8* RBC-4.21 HGB-12.2 HCT-36.5 MCV-87 
MCH-29.0 MCHC-33.4 RDW-13.0 RDWSD-40.5
___ 12:00PM   NEUTS-82.7* LYMPHS-10.6* MONOS-5.2 EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-8.97* AbsLymp-1.15* AbsMono-0.56 
AbsEos-0.04 AbsBaso-0.04
___ 12:00PM   PLT COUNT-186
___ 12:00PM   ___ PTT-21.9* ___

DISCHARGE LABS:
===============
___ 05:05AM BLOOD WBC-8.6 RBC-3.88* Hgb-11.1* Hct-33.5* 
MCV-86 MCH-28.6 MCHC-33.1 RDW-12.8 RDWSD-39.8 Plt ___
___ 05:05AM BLOOD Glucose-96 UreaN-12 Creat-0.6 Na-142 
K-3.5 Cl-100 HCO3-29 AnGap-13
___ 05:05AM BLOOD Calcium-8.6 Phos-2.4* Mg-1.9

IMAGING:
========
CTA Head/Neck ___:
1. Acute core infarction in the left basal ganglia. 
2. Acute ischemic changes in the left frontal, left parietal, 
and left 
temporal lobes. 
3. Focal occlusion of the left middle cerebral artery superior 
M2 division 
with resultant decreased opacification of the distal branches. 
4. Approximately ___ stenosis of the proximal right internal 
carotid artery by NASCET criteria. 
5. No evidence of acute intracranial hemorrhage. 

MRI/MRA Brain ___:
1. Acute core infarction involving the left caudate body and 
tail, left globus pallidus, and left insular cortex. 
2. The ischemic penumbra involves a portion of the deep left 
frontal, left 
parietal, and left temporal lobes. 
3. No evidence of acute intracranial hemorrhage or hemorrhagic 
conversion. 
4. Interval recanalization of the left MCA superior division M2 
segment, which previously demonstrated occlusion on prior CTA 
head and neck with contrast. Otherwise, patent circle of ___ 
with no evidence of occlusion.

TTE ___:
The left atrium is elongated. No thrombus/mass is seen in the 
body of the left atrium (best excluded by TEE). There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative biplane left ventricular 
ejection fraction is 67 %. Left ventricular cardiac index is 
normal (>2.5 L/min/m2). There is no resting left ventricular 
outflow tract gradient. No ventricular septal defect is seen. 
Normal right ventricular cavity size with normal free wall 
motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) are moderately 
thickened. No masses or vegetations are seen on the aortic 
valve. There is mild aortic valve stenosis (valve area 1.5-1.9 
cm2). There is no aortic regurgitation. The mitral valve 
leaflets are mildly thickened with no mitral valve prolapse. No 
masses or vegetations are seen on the mitral valve. There is 
trivial mitral regurgitation. The tricuspid valve leaflets are 
mildly thickened. No mass/vegetation are seen on the tricuspid 
valve. There is mild [1+] tricuspid regurgitation. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Mild aortic valve stenosis with mildly thickened 
leaflets. Mild pulmonary artery systolic hypertension. 

CAROTID ULTRASOUND SERIES ___: PENDING AT TIME OF DISCHARGE

 
Brief Hospital Course:
PATIENT SUMMARY:
================
This is an ___ year old woman with a history of hypertension who 
presented with acute aphasia and right hemiplegia with last
known well at 8:40am on ___. She was found to have a left M1 
occlusion. Initial NIHSS was 12, and she was given tPA at 10:12 
am on ___, after which her deficits were noted to rapidly 
improve.

Exam on arrival to ___ was notable for decreased fluency of 
her language, some difficulty with naming, and 
occasional/fluctuating disorientation. There was also subtle 
right face and arm weakness. CTA initially showed left M1 
occlusion.

Thrombectomy was considered due to persistent thrombus in the M2 
segment, but ultimately not performed as her deficits were felt 
to be minor and rapidly improved after tPA administration. Exam 
at the time of discharge is essentially normal other than subtle 
right pronator drift. 

Etiology most likely cardioembolic at this point given only mild 
atherosclerosis on carotid duplex. Less likely artery-to-artery. 
She was started on aspirin 81 mg daily as well as Zetia 10 mg 
daily (given history of myopathy with statins). 

The patient will be discharged with a Ziopatch cardiac event 
recorder.

TRANSITIONAL ISSUES:
====================
- Ziopatch placed prior to discharge. Please follow up results 
as outpatient to assess for occult atrial fibrillation.

- Patient had isolated fever the day prior to discharge. No 
urinary or pulmonary symptoms, hemodynamically stable. If 
patient were to develop recurrent fever, consider urinary source 
and obtain U/A with culture. 

- Follow up final read of carotid ultrasound. 

- Consider amending outpatient anti-hypertensive regimen with 
goal normotension.

- Continue to monitor lipid levels on Zetia. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
=
=
=
=
=
=
=
================================================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 116) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? () Yes - (x) No [if LDL >70, 
reason not given:  
 [x] Statin medication allergy -> discharged on Zetia 10 mg 
daily
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enalapril Maleate 10 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Alendronate Sodium Dose is Unknown  PO EVERY OTHER WEEK 
5. Gabapentin 300 mg PO DAILY:PRN Back pain 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Ezetimibe 10 mg PO DAILY  
3.  Alendronate Sodium 70 mg PO WEEKLY  
4.  Enalapril Maleate 10 mg PO DAILY  
5.  Gabapentin 300 mg PO DAILY:PRN Back pain  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke
Hypertension
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
 Dear ___,  

 ___ were hospitalized due to symptoms of right sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- High blood pressure
- High cholesterol 

 We are changing your medications as follows:  

- Started aspirin 81 mg daily
- Started Zetia 10 mg daily

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 
If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___